* One-bit Sky130 bottom-plate charge-transfer cell.
.lib "/home/mehtama1/eda-tools/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.param vdd=1.8
VDD vdd 0 {vdd}
VSS vss 0 0
VTOP top 0 0.900000000
CBOTTOM top bottom 8p
XLOW bottom low_gate vss vss sky130_fd_pr__nfet_01v8 W=8.0 L=0.15
XHIGH0 bottom high_gate vdd vdd sky130_fd_pr__pfet_01v8 W=16 L=0.15 NF=1
VLOW low_gate 0 PWL(0 1.8 1n 1.8 1.18n 0 4n 0)
VHIGH high_gate 0 PWL(0 1.8 1.2n 0 4n 0)
.ic v(top)=0.900000000 v(bottom)=0
RLEAKTOP top 0 100G
RLEAKBOTTOM bottom 0 100G
.options method=gear reltol=1e-3 abstol=1e-14 vntol=1e-7 chgtol=1e-16 gmin=1e-12
.nodeset v(top)=0.900000000 v(bottom)=0
.tran 5p 4n
.measure tran top_before_v FIND v(top) AT=0.90n
.measure tran bottom_before_v FIND v(bottom) AT=0.90n
.measure tran top_after_v FIND v(top) AT=2.50n
.measure tran bottom_after_v FIND v(bottom) AT=2.50n
.measure tran bottom_late_v FIND v(bottom) AT=3.50n
.measure tran top_late_v FIND v(top) AT=3.50n
.control
run
.endc
.end
